US07514470B2
B. Methyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(2-fluoroethyl)glycinate
To a solution of a 6:1 mixture of 4-[(2-fluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and 4-[bis(2-fluoroethyl)amino]-2-(trifluoromethyl)benzonitrile (0.100 g) in acetonitrile (3 mL) was added Cs2CO3 (0.169 g, 0.52 mmol) and methyl bromoacetate (0.080 g, 0.52 mmol). The mixture was heated at 85° C. for 2 h. Upon cooling, additional methyl bromoacetate (0.080 g, 0.52 mmol) was added and heated at 85° C. for 8 h. Upon cooling, the mixture was partitioned between ethyl acetate and water. The organic phase was washed with brine, dried (Na2SO4), and concentrated in vacuo. The residue was purified by radial chromatography (10-80% EtOAc-hexanes gradient) to give 0.052 g (50% yield) of the desired product as a white solid: 1H NMR (400 MHz, CDCl3) δ 7.62 (d, J=8.9 Hz, 1H), 6.92 (d, J=2.7 Hz, 1H), 6.76 (dd, J=8.9, 2.7 Hz, 1H), 4.68 (dt, J=47.0, 4.8 Hz, 2H), 4.21 (s, 2H), 3.81 (dt, J=25.6, 4.8 Hz, 2H), 3.78 (s, 3H).

reactant | 4-[(2-fluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | FCCNC1=CC(=C(C#N)C=C1)C(F)(F)F | C10H8F4N2
reactant | 4-[bis(2-fluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | 0.100 g | FCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCF | C12H11F5N2
reactant | Cs2CO3 | 0.52 mmol, 0.169 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl bromoacetate | 0.52 mmol, 0.080 g | BrCC(=O)OC | C3H5BrO2
reactant | methyl bromoacetate | 0.52 mmol, 0.080 g | BrCC(=O)OC | C3H5BrO2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | Methyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(2-fluoroethyl)glycinate | 0.052 g, 50% yield | C(#N)C1=C(C=C(C=C1)N(CC(=O)OC)CCF)C(F)(F)F | C13H12F4N2O2
